US04622332
5-Decyl 3-ethyl 2-amino-6-methyl-4-(3-nitrophenyl)-4H-pyran-3,5-dicarboxylate
A solution of 5.7 g (15 mmol) of decyl 2-(3-nitrobenzylidene)acetoacetate and 1.8 g (15 mmol) of ethyl cyanoacetate in 15 ml of ethanol was heated to boiling in the presence of 0.3 ml of piperidine, for 4 hours. The solvent was then removed by distillation and the oily residue was purified by column chromatography (SiO2, chloroform) and brought to crystalli ation, melting point: 100° C., yield: 3.3 g (45%).

reactant | decyl 2-(3-nitrobenzylidene)acetoacetate | 15 mmol, 5.7 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCCCCCCCCC)C(=O)C)C=CC1 | C21H29NO5
reactant | ethyl cyanoacetate | 15 mmol, 1.8 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-Decyl 3-ethyl 2-amino-6-methyl-4-(3-nitrophenyl)-4H-pyran-3,5-dicarboxylate | NC=1OC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCC)C | C26H36N2O7
